Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
AndroGel
 
Attending: ___.
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ year old ___ man with a history of HTN,
HLD, DM, afib s/p cardioversion on coumadin, cervical
spondylosis, prior BPPV, who presents for evaluation of 
dizziness
today. The patient was in his usual state of health this morning
and ate breakfast around 10 AM. He was watching soccer sitting
down at 1:30 or 2 ___ when he had onset of a feeling of
"dizziness" "giddiness" and "being outside of myself". He
describes this as a vague sense of motion away from his body. No
frank vertigo. He states this sensation has been present
constantly since 2 ___ although it is exacerbated when he moves
his head, with exacerbations lasting ___ seconds at a time. He
got up to go to the fridge and then he noted that his equilbrium
was disrupted, and he felt unsteady on his feet, with a rocking
sensation. He felt that he was swaying. He checked his BP and
found it to be high 186/107 so called EMS, who also found his BP
to be high. He was taken to ___ for further evaluation. Denies
HA, vision changes, diplopia.

The patient state that for the past few weeks when he turns his
head back to reverse his car, he has a feeling of dizziness that
is similar to this as well as a horizontal double vision. This
resolves if he returns his head back to a normal position.

He has had low PO intake today without any food since ___ AM.
However otherwise he has been eating well.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion.
Denies difficulty with producing or comprehending speech.
Denies loss of vision, blurred vision, diplopia, vertigo,
tinnitus, hearing difficulty, dysarthria, or dysphagia.
Denies muscle weakness.
Denies loss of sensation.
Denies bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss.
Denies chest pain, palpitations, dyspnea, or cough.
Denies nausea, vomiting, diarrhea, constipation, or abdominal
pain.

 
Past Medical History:
- DM c/b retinopathy
- HTN
- HLD
- afib sp cardioversion x 3 most recently in ___, on
coumadin
- C spine spondylosis, radiculopathies
- BPPV: ___ years ago, different from this current episode, had 
a more distinctly vertigious component
- hypogonadism
- colon ademonas
- s/p R hip replacement, b/l knee surgeries

 
Social History:
___
Family History:
Father with colon cancer. Brother with h/o bleeding ulcer and 
lymphoma.
 
Physical Exam:
VS 98 85 163/94 18 100% RA
General: NAD, lying in bed comfortably. 
Head: NC/AT, no conjunctival icterus, no oropharyngeal lesions 
Neck: Supple, no nuchal rigidity, no meningismus
CV: RRR

Neurologic Examination:

- Mental Status - 
Awake, alert, oriented x 3. Attention to examiner easily 
attained
and maintained. Concentration maintained when recalling months
backwards. Recalls a coherent history. Structure of speech
demonstrates fluency with full sentences, intact repetition, and
intact verbal comprehension. Able to name hammock  and other
stroke pictures but difficulty with cacuts and feather - he
states he would not expect himself to be able to recognize these
with such simple pictures. Normal prosody. No dysarthria. No
evidence of hemineglect. No left-right agnosia.

- Cranial Nerves -
II. Equal and reactive pupils. Visual fields were full to finger
counting.  
III, IV, VI. smooth and full extraocular movements without
diplopia or nystagmus.  
V. facial sensation was intact, muscles of mastication with full
strength
VII. delayed activation of the R face but no droop
VIII. hearing was intact to finger rub bilaterally.  
IX, X. symmetric palate elevation and symmetric tongue 
protrusion
with full movement.
XI. SCM and trapezius were of normal strength and volume.

- Motor -
Muscule bulk and tone were normal. No pronation, no drift. No
tremor or asterixis.
  Delt   Bic  Tri ECR Fext Fflx IP   Quad   Ham   TA   Gas  
L  5      5    ___    5    5      5     5    5     5
R  5      5    ___    5    5      5     5    5     5

- Sensation -
Intact to light touch, decreased to proprioception mildly at the
great toes and more impaired at the little toes.  

- DTRs -
 Bic    Tri   ___   Quad   Gastroc
L 2      2      2      0        0
R 2      2      2      0        0
Plantar response extensor vs withdrawl bilaterally.

- Cerebellar -
Mild past pointing with finger to nose testing bilaterally but
the patient appears to be rushing. Normal HTS bilaterally. Good
speed and intact cadence with rapid alternating movements. No
truncal ataxia when sitting on the side of the bed. Negative ___ to the L, he does have worsening of dizziness with R
sided ___ but refuses to put his head fully into
position over the side of the bed and there is no nystagmus.
Negative head impulse test.

- Gait -
Walks with a sway, sidesteps to the R, then to the L. + 
Rhomberg.
- ___ (walks forwards)

 
Pertinent Results:
CK: 120  MB: 3  Trop-T: <0.01 
 
Trop-T: <0.01  

139  ___   AGap=16 
4.8  23  1.2  

ALT: 16 AP: 84 Tbili: 0.5 Alb: 4.3 
AST: 28 LDH:  Dbili:  TProt:  
___:  Lip: 66     

Serum ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc Pending 

7.3  14.4  211 
     41.3  
 N:60.3 L:29.7 M:6.8 E:2.3 Bas:0.9 

___: 16.3  PTT: 34.9  INR: 1.5  

EKG: ST elevations in V2/V3, which are mostly stable from prior
although slightly higher in V2.
 
NC Head CT:
1. No acute intracranial process. 
2. Fluid is seen in scattered right mastoid air cells. Recommend
correlation with symptoms. 

CTA head/neck:
CT head: No evidence of acute large territorial infarct,
hemorrhage, edema, or mass effect. 
CTA head and neck: No flow-limiting stenosis, occlusion, or
dissection in the cervical vasculature. Significant calcified
atherosclerotic plaque of the left intracranial ICA, with
narrowing of the lumen, but could opacification of the distal
vessels. No occlusion or aneurysm greater than 3 mm in the
intracranial vasculature. 

MRI: 
No acute hemorrhage, stroke, or mass effect. 
Scattered T2/FLAIR signal hyperintense lesions in the 
periventricular, 
subcortical, and deep white matter likely reflecting chronic 
small vessel 
ischemic disease. 
Right cerebellar hemisphere chronic lacunar infarcts 

 
Brief Hospital Course:
Patient was admitted to the stroke service and monitored 
closely. He had an MRI that did not show any stroke. His repeat 
neurologic exam was suggestive of BPPV. He did improve with the 
roll maneuver and had no dizziness by discharge. He was 
discharged home on meclizine PRN and will follow-up with a 
neurologist as an outpatient. 

Of note, Mr. ___ INR was subtherapeutic (1.5) during 
admission. His outpatient clinic will follow-up with him 
regarding his coumadin dose. 

No other changes were made to his medication regimen. 
 
Medications on Admission:
(per OMR, semi-confirmed with patient but he does not
seem to know the correct names of ___
ALPROSTADIL [CAVERJECT] - Caverject 40 mcg intracavernosal
solution. Inject 1ml into penis  as needed -  (Prescribed by
Other Provider: ___
ATORVASTATIN - atorvastatin 80 mg tablet. one Tablet(s) by mouth
once a day
DILTIAZEM HCL - diltiazem CD 240 mg capsule,extended release 24
hr. 1 capsule(s) by mouth once a day
FLECAINIDE - flecainide 150 mg tablet. 1 tablet(s) by mouth 
every
twelve (12) hours
GLIPIZIDE - glipizide ER 10 mg tablet, extended release 24 hr. 1
(One) tablet(s) by mouth twice a day -  (Prescribed by Other
Provider)
LATANOPROST - latanoprost 0.005 % eye drops. 1 drop both eyes at
bedtime
LOSARTAN - losartan 25 mg tablet. 1 Tablet(s) by mouth daily
METFORMIN - metformin 500 mg tablet. one tab mid day and one tab
in evening
METFORMIN - metformin 1,000 mg tablet. 1 (One) tablet(s) by 
mouth
once a day in am
POLYETHYLENE GLYCOL 3350 - polyethylene glycol 3350 17 gram/dose
oral powder. 1 capful powder(s) by mouth once a day
WARFARIN - warfarin 5 mg tablet. 1 tablet(s) by mouth daily on
___. 1.5 tablets all other days *7.5* -  (Prescribed
by Other Provider)
FISH OIL - Dosage uncertain -  (OTC) (Not Taking as Prescribed)
FLAXSEED OIL - Dosage uncertain -  (OTC)
 
 
Discharge Medications:
1. Atorvastatin 80 mg PO QPM 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. MetFORMIN (Glucophage) 500 mg PO TID 
Take 500 mg in AM and midday, take 1000 mg in ___ 
5. Losartan Potassium 25 mg PO DAILY 
6. Warfarin 7.5 mg PO DAILY16 
7. GlipiZIDE XL 10 mg PO DAILY 
8. Flecainide Acetate 150 mg PO Q12H 
9. Alprostadil 40 mcg INTRAVCAV DAILY ED 
Inject 1 mL into penis as needed 
10. Polyethylene Glycol 17 g PO DAILY 
11. Fish Oil (Omega 3) 0 mg PO DAILY 
12. Meclizine 25 mg PO DAILY:PRN vertigo 
Take ___ tabs daily as needed for vertigo 
RX *meclizine 25 mg ___ tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0
13. Outpatient Physical Therapy
386.11
Vestibular ___
Neurology provider: ___, MD, PhD

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPPV (benign paroxysmal peripheral vertigo)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of dizziness described 
as a "drifting" feeling you were having over the weekend. On 
arrival we found that your INR was subtherapeutic (at 1.5, goal 
___. We continued your home medications and worked you up for a 
possible stroke. 

MRI did not show any acute stroke. You also had multiple 
neurologic exams that showed that your dizziness was likely due 
to BPPV (benign paroxysmal positional vertigo), similar to your 
symptoms in the past. 

Your medication regimen was not changed and you were discharged 
home with plans to follow up with your PCP and with ___ stroke 
neurologist. 

Please also be sure have your INR drawn a couple days after 
discharge.

We wish you the best of luck as you go forward. Please do not 
hesitate to contact us with any concerns. 

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___